US09255089B2
6-(3,5-dimethylisoxazol-4-yl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-benzo[d]imidazol-2(3H)-one (150 mg, 0.42 mmol) and 5-bromo-6-cyclopropylpyridin-3-amine (180 mg, 0.84 mmol) were added to a solvent mixture of 1,2-dimethoxyethane (2 mL) and water (1 mL). To the mixture were added PEPPSI-Ipr (29 mg, 0.03 mmol) and Cs2CO3 (413 mg, 1 mmol). The reaction mixture was heated at 130° C. in microwave reactor for 30 mins. The reaction mixture was then filtered and organic solvent was evaporated and the residue was purified with Prep HPLC (0-100% CH3CN/H2O) to afford 129 mg of 4-(5-amino-2-cyclopropylpyridin-3-yl)-6-(3,5-dimethylisoxazol-4-yl)-1H-benzo[d]imidazol-2(3H)-one.

reactant | 6-(3,5-dimethylisoxazol-4-yl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-benzo[d]imidazol-2(3H)-one | 0.42 mmol, 150 mg | CC1=NOC(=C1C=1C=C(C2=C(NC(N2)=O)C1)B1OC(C(O1)(C)C)(C)C)C | C18H22BN3O4
reactant | 5-bromo-6-cyclopropylpyridin-3-amine | 0.84 mmol, 180 mg | BrC=1C=C(C=NC1C1CC1)N | C8H9BrN2
reactant | 1,2-dimethoxyethane | 2 mL | COCCOC | C4H10O2
reactant | Cs2CO3 | 1 mmol, 413 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | water | 1 mL | O | H2O
product | 4-(5-amino-2-cyclopropylpyridin-3-yl)-6-(3,5-dimethylisoxazol-4-yl)-1H-benzo[d]imidazol-2(3H)-one | 129 mg | NC=1C=C(C(=NC1)C1CC1)C1=CC(=CC=2NC(NC21)=O)C=2C(=NOC2C)C | C20H19N5O2
